US06518423B1
1-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-1,3-butanedione
Into 20 ml of ice-cooled solution of 1.27 ml of diisopropylamine in dry tetrahydrofuran was dropped in a nitrogen atmosphere 5.5 ml of a 1.6 M solution of n-butyllithium in hexane. After stirring for 10 minutes, the reaction mixture was cooled to −78° C. Next, 5 ml of a solution of 2.0 g of (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methyl ketone in dry tetrahydrofuran was added thereto and the mixture was stirred for 30 minutes. After further dropping 700 mg of acetyl chloride thereinto, the reaction mixture was brought back to room temperature. Then the reaction mixture was distributed into water and ethyl acetate and the organic layer was extracted, washed with water, dried over anhydrous sodium sulfate and filtered. The filtrate was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluted with toluene/acetone) to thereby give 420 mg of the title compound as a yellow oily substance.

reactant | diisopropylamine | 1.27 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | (10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)methyl ketone | 2.0 g | COCN1C2=C(SC3=C1C=C(C=C3)C(=O)C)N=CC=N2 | C14H13N3O2S
reactant | acetyl chloride | 700 mg | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(10-Methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazin-8-yl)-1,3-butanedione | 420 mg | COCN1C2=C(SC3=C1C=C(C=C3)C(CC(C)=O)=O)N=CC=N2 | C16H15N3O3S
